US07138406B2
1-Ethyl-6-methoxy-3,4-dihydro-1H-naphthalen-2-one
A solution of 6-methoxy-2-tetralone (120.55 grams, 0.684 mol) and pyrrolidine (61 mL, 0.685 mol) in toluene (1.7 L) was heated to reflux using a Dean-Stark trap apparatus for 3 hours. After removal of the azeotroped water, the reaction mixture was cooled to room temperature and concentrated to a solid. To this solid was added methanol (1.2 L) and ethyl iodide (121 mL, 1.51 mol). The resulting solution was heated at reflux overnight and then concentrated under vacuum to remove methanol. A solution of acetic acid (120 mL), sodium acetate (120 g) in water (240 mL) was added to the residue and the resultant mixture was heated at reflux for 2 hours. After cooling, the mixture was extracted several times with diethyl ether. The combined organic layers were washed twice with aqueous 1M HCl, twice with aqueous 1M NaOH and once with brine. After drying over magnesium sulfate, the solvent was evaporated to afford the title compound as an oil, 121.8 grams. Mass spectrum: m/e 204.

reactant | 6-methoxy-2-tetralone | 0.684 mol, 120.55 grams | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | pyrrolidine | 0.685 mol, 61 mL | N1CCCC1 | C4H9N
reactant | methanol | 1.2 L | CO | CH4O
reactant | ethyl iodide | 1.51 mol, 121 mL | C(C)I | C2H5I
solvent | toluene | 1.7 L | C1(=CC=CC=C1)C | C7H8
product | 1-Ethyl-6-methoxy-3,4-dihydro-1H-naphthalen-2-one | C(C)C1C(CCC2=CC(=CC=C12)OC)=O | C13H16O2
